US04987132
A mixture of 0.70 g of ethyl 4-(2-phenylethyl)piperidine-1-carboxylate in 6 ml of 47% hydrobromic acid was heated under reflux at 100° C. for 6 hours. A small amount of water was added for dissolution of the resultant crystals, the solution was washed with ether, and the aqueous layer was made alkaline with 20% sodium hydroxide. After salting out with sodium chloride, the aqueous layer was extracted with ether. The organic layer was washed with saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give 0.42 g of 4-(2-phenylethyl)piperidine.

reactant | ethyl 4-(2-phenylethyl)piperidine-1-carboxylate | 0.70 g | C1(=CC=CC=C1)CCC1CCN(CC1)C(=O)OCC | C16H23NO2
reactant | water | O | H2O
solvent | hydrobromic acid | 6 ml | Br | BrH
product | 4-(2-phenylethyl)piperidine | 0.42 g | C1(=CC=CC=C1)CCC1CCNCC1 | C13H19N
